US06987195B2
2297.75 g (21.24 moles) of benzyl alcohol was placed in a dry, stirred pressure vessel fitted with a nitrogen inlet. A catalytic amount (6 g) of KOH was added as a 40% aqueous solution. The vessel was purged with nitrogen and heated to 110° C. Vacuum was applied for 1 hour to remove the water vapors from the headspace of the vessel, and the mixture was further heated to 130° C. After 3702.25 g (63.74 moles) of propylene oxide were added, the reaction mixture was stirred for additional 3 hours to complete the reaction. The progress of the reaction was monitored by the uptake of the reagent and the measurement of the pressure in the vessel. The reaction mixture was cooled to 110° C., and a vacuum was applied for approximately 1 hour. To neutralize KOH in the reaction mixture, 29 g of 25% sulfuric acid was added. The mixture was stirred for 10 minutes, and the pH was adjusted to 5.7. Upon cooling, PPG-3 Benzyl Ether, a thin light yellow liquid, was isolated as the major product.

reactant | benzyl alcohol | 21.24 moles, 2297.75 g | C(C1=CC=CC=C1)O | C7H8O
reactant | KOH | 6 g | [OH-].[K+]
reactant | propylene oxide | 63.74 moles, 3702.25 g | C1C(C)O1 | C3H6O
reactant | sulfuric acid | 29 g | S(O)(O)(=O)=O | H2O4S
product | Benzyl Ether | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
